US06531502B1
3,5-Diisopropyl-4-methoxybenzaldehyde was condensed with 6-tert-butyloxycarbonylamino-2-oxindole to give 0.35 g of [3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-carbamic acid tert-butyl ester as a yellow-orange solid.

reactant | 3,5-Diisopropyl-4-methoxybenzaldehyde | C(C)(C)C=1C=C(C=O)C=C(C1OC)C(C)C | C14H20O2
reactant | 6-tert-butyloxycarbonylamino-2-oxindole | C(C)(C)(C)OC(=O)NC1=CC=C2CC(NC2=C1)=O | C13H16N2O3
product | [3-(3,5-diisopropyl-4-methoxybenzylidene)-2-oxo-2,3-dihydro-1H-indol-6-yl]-carbamic acid tert-butyl ester | 0.35 g | C(C)(C)(C)OC(NC1=CC=C2C(C(NC2=C1)=O)=CC1=CC(=C(C(=C1)C(C)C)OC)C(C)C)=O | C27H34N2O4
